** sch_path: /home/anton/projects/tt-vga-fun/xschem/b.sch
**.subckt b
V1 vramp GND pwl 0ns 0v, 20ns 0v, 100ns 1.8v, 200ns 1.8v
V2 vpwr GND 1.8
V3 v020n GND pulse 1.8v 0v 0n 1n 1n 19n 40n
V4 v040n GND pulse 1.8v 0v 0n 1n 1n 39n 80n
V5 v080n GND pulse 1.8v 0v 0n 1n 1n 79n 160n
x5 vdac4pin vdac4 GND tt06_analog_load
R8 vdac4pin GND 30e3 m=1
V6 v160n GND pulse 1.8v 0v 0n 1n 1n 159n 320n
V7 v320n GND pulse 1.8v 0v 0n 1n 1n 319n 640n
V8 v640n GND pulse 1.8v 0v 0n 1n 1n 639n 1280n
V9 v1280n GND pulse 1.8v 0v 0n 1n 1n 1279n 2560n
V10 v2560n GND pulse 1.8v 0v 0n 1n 1n 2559n 5120n
x7 vpwr GND v040n v080n v160n v320n v640n v1280n v2560n v5120n vdac4 bdac
V11 v5120n GND pulse 1.8v 0v 0n 1n 1n 5119n 10240n
**** begin user architecture code

.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/anton/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice




.options savecurrents

.control
  save all
  tran 1n 12.8u
  write b.raw

  plot
  + vdac4 vdac4pin
  + '1*(0.430/1.800)*(v5120n/2.0 + v2560n/4.0 + v1280n/8.0 + v640n/16.0 + v320n/32.0 + v160n/64.0 + v080n/128.0 + v040n/256.0)'
  + '0.02*(v040n+2.0)'
  + '(v080n+4)/50'
  + '(v160n+6)/50'
  + '(v320n+8)/50'
  + '(v640n+10)/50'
  + '(v1280n+12)/50'
  + '(v2560n+14)/50'
  + '(v5120n+16)/50'
*NOTE: 0.430/1.800 above scales the perfect output line to be closer to the scale of actual output.
*  + '(v5120n/2.0 + v2560n/4.0 + v1280n/8.0 + v640n/16.0 + v320n/32.0 + v160n/64.0 + v080n/128.0 + v040n/256.0)'

*  plot vpull
*  + vramp
*  + v040n
*  + v080n+2
*  + v160n+4
.endc



**** end user architecture code
**.ends

* expanding   symbol:  tt06_analog_load.sym # of pins=3
** sym_path: /home/anton/projects/tt-vga-fun/xschem/tt06_analog_load.sym
** sch_path: /home/anton/projects/tt-vga-fun/xschem/tt06_analog_load.sch
.subckt tt06_analog_load a_ext a_int GND
*.iopin a_int
*.iopin a_ext
*.iopin GND
R1 a_ext a_int 500 m=1
C1 a_int GND 2.5p m=1
C2 a_ext GND 2.5p m=1
.ends


* expanding   symbol:  bdac.sym # of pins=11
** sym_path: /home/anton/projects/tt-vga-fun/xschem/bdac.sym
** sch_path: /home/anton/projects/tt-vga-fun/xschem/bdac.sch
.subckt bdac vcc vss d0 d1 d2 d3 d4 d5 d6 d7 vdac
*.ipin d0
*.opin vdac
*.iopin vcc
*.ipin d1
*.ipin d2
*.ipin d3
*.ipin d4
*.ipin d5
*.ipin d6
*.ipin d7
*.iopin vss
XM2p net5 net2 net1 net1 sky130_fd_pr__pfet_01v8 L=1 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1p net4 net2 net1 net1 sky130_fd_pr__pfet_01v8 L=2 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM0p net3 net2 net1 net1 sky130_fd_pr__pfet_01v8 L=4 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMmirror net2 net2 net1 net1 sky130_fd_pr__pfet_01v8 L=0.5 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM0n net3 d0 vdac vdac sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1n net4 d1 vdac vdac sky130_fd_pr__nfet_01v8 L=1.2 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2n net5 d2 vdac vdac sky130_fd_pr__nfet_01v8 L=0.5 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMcon vdac vcc vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3p net6 net2 net1 net1 sky130_fd_pr__pfet_01v8 L=0.5 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3n net6 d3 vdac vdac sky130_fd_pr__nfet_01v8 L=0.25 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4p net7 net2 net1 net1 sky130_fd_pr__pfet_01v8 L=0.25 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4n net7 d4 vdac vdac sky130_fd_pr__nfet_01v8 L=0.6 W=0.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5p net8 net2 net1 net1 sky130_fd_pr__pfet_01v8 L=0.3 W=1.35 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5n net8 d5 vdac vdac sky130_fd_pr__nfet_01v8 L=0.25 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6p net9 net2 net1 net1 sky130_fd_pr__pfet_01v8 L=0.25 W=2.1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6n net9 d6 vdac vdac sky130_fd_pr__nfet_01v8 L=0.25 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7p net10 net2 net1 net1 sky130_fd_pr__pfet_01v8 L=0.25 W=4.3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7n net10 d7 vdac vdac sky130_fd_pr__nfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMprog net2 vcc vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XRbal net1 vcc vss sky130_fd_pr__res_high_po_5p73 L=10 mult=1 m=1
.ends

.GLOBAL GND
.end
